US05716971
To a mixture of 5-bromo-2-methoxymethoxybenzyl cyanide (2.10 g), 2-bromo-3-methoxymethoxypyridine (1.79 g), sodium p-toluenesulfinate (0.44 g) and THF (30 ml) was added, at room temperature, 60% sodium hydride (0.69 g), followed by heating for 2 hours under reflux under argon atmosphere. The reaction mixture was poured into a saturated aqueous saline solution, which was subjected to extraction with ethyl acetate. The extract solution was washed with a saturated aqueous saline solution, dried (anhydrous sodium sulfate), and concentrated. The concentrate was purified by means of a silica gel column chromatography (eluted with ethyl acetate/hexane) to give 2-(5-bromo-α-cyano-2-methoxymethoxybenzyl)-3-methoxymethoxypyridine (2.58 g), whose physical properties and spectrum data are shown in Table 9 and Table 12.

reactant | 5-bromo-2-methoxymethoxybenzyl cyanide | 2.10 g | BrC=1C=CC(=C(CC#N)C1)OCOC | C10H10BrNO2
reactant | 2-bromo-3-methoxymethoxypyridine | 1.79 g | BrC1=NC=CC=C1OCOC | C7H8BrNO2
reactant | sodium p-toluenesulfinate | 0.44 g | C1(=CC=C(C=C1)S(=O)[O-])C.[Na+]
reactant | sodium hydride | 0.69 g | [H-].[Na+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 2-(5-bromo-α-cyano-2-methoxymethoxybenzyl)-3-methoxymethoxypyridine | 2.58 g | BrC=1C=CC(=C(C(C#N)C2=NC=CC=C2OCOC)C1)OCOC | C17H17BrN2O4
